US04129654
3,5,7-Trimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione
One gram of 1,3-dimethyl-6-hydroxyaminouracil is boiled with 10 ml of acetic anhydride at 140° C. for 1 hour and, when hot, the insolubles are filtered off. The filtrate is concentrated to dryness to recover 0.7 g of the captioned compound as colorless needles. As recrystallized from ethanol, the compound melts at 200°-202° C.

reactant | 1,3-dimethyl-6-hydroxyaminouracil | One gram | CN1C(=O)N(C(=O)C=C1NO)C | C6H9N3O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,5,7-Trimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione | CC=1ON=C2N(C(N(C(C21)=O)C)=O)C | C8H9N3O3
